US07214800B2
a) 3-Benzyl-7-chloro-2-[1-(2,2-dimethoxy-ethylamino)-2-methyl-propyl]-3H-quinazolin-4-one
To a solution of 2-(1-amino-2-methyl-propyl)-3-benzyl-7-chloro-3H-quinazolin-4-one (1.87 g, 5.48 mmol) in DMF (30 mL) was added bromoacetaldehyde dimethylacetal (2.78 g, 16.44 mmol) and potassium carbonate (2.27 g, 16.44 mmol) and the resulting suspension was heated at 135° C. for 18 h. The cooled reaction was concentrated in vacuo, triturated with methylene chloride to remove any solids, and the filtrate was concentrated in vacuo. The residue was purified by flash chromatography (silica gel; 2:1 hexanes:ethyl acetate) to give the title compound as a pale yellow oil (1.38 g, 59%). MS(ES+) m/e 430 [M+H]+.

reactant | 2-(1-amino-2-methyl-propyl)-3-benzyl-7-chloro-3H-quinazolin-4-one | 5.48 mmol, 1.87 g | NC(C(C)C)C1=NC2=CC(=CC=C2C(N1CC1=CC=CC=C1)=O)Cl | C19H20ClN3O
reactant | bromoacetaldehyde dimethylacetal | 16.44 mmol, 2.78 g | COC(CBr)OC | C4H9BrO2
reactant | potassium carbonate | 16.44 mmol, 2.27 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
product | 3-Benzyl-7-chloro-2-[1-(2,2-dimethoxy-ethylamino)-2-methyl-propyl]-3H-quinazolin-4-one | 1.38 g, 59% | C(C1=CC=CC=C1)N1C(=NC2=CC(=CC=C2C1=O)Cl)C(C(C)C)NCC(OC)OC | C23H28ClN3O3
